US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-pyrrolidine-1-yl-propyl)amide
218 mg (0.817 mmol) of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 126 mg (0.981 mmol) of 1-(3-aminopropyl)pyrrolidine were dissolved in 10 ml of DMF. 235 mg (1.23 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=50/1 to 10/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.817 mmol, 218 mg | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)O)C)=O | C12H11ClN2O3
reactant | 1-(3-aminopropyl)pyrrolidine | 0.981 mmol, 126 mg | NCCCN1CCCC1 | C7H16N2
reactant | WSC hydrochloride | 1.23 mmol, 235 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-pyrrolidine-1-yl-propyl)amide | N1(CCCC1)CCCNC(=O)C=1C(NC(NC1C)=O)C1=CC(=CC=C1)Cl | C19H25ClN4O2
